US04346248
In the fourth stage, the 2,4,5-trichlorobenzenediazonium strong mineral acid salt in solution in water is hydrolytically decomposed at a temperature from the reflux temperature to a temperature of 375° C. At the lower temperatures, the solution is refluxed in the presence of a cupric salt, the 2,4,5-trichlorophenol formed is steam distilled from the reaction and separately recovered. At higher temperatures of 130° C. to 375° C., preferably from 140° C. to 220° C., the aqueous solution is injected into a column packed with a suitable inert material and maintained at the desired temperature, either with or without additional super-heated steam. The 2,4,5-trichlorophenol steam distills from the top of the heated column and the concentrated aqueous strong mineral acid is recovered from the bottom of the column.

reactant | 2,4,5-trichlorobenzenediazonium | ClC1=C(C=C(C(=C1)Cl)Cl)[N+]#N
reactant | water | O | H2O
product | 2,4,5-trichlorophenol | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
